US20010000513A1
In a manner similar to Example 4, Step (c), 4-(2′-fluoro-biphenyl-4-yl)-4-oxo-butyric acid (1.634 g, 0.006001 mol) was allowed to react with hydroxylamine hydrochloride (0.500 g, 0.00720 mol) in the presence of sodium carbonate (0.763 g, 0.00720 mol) in absolute ethanol to give 1.434 g of 4-(2′-fluoro-biphenyl-4-yl)-4-hydroxyimino-butyric acid as a pale yellow solid; mp 150.0-151.5° C.

reactant | 4-(2′-fluoro-biphenyl-4-yl)-4-oxo-butyric acid | 0.006001 mol, 1.634 g | FC1=C(C=CC=C1)C1=CC=C(C=C1)C(CCC(=O)O)=O | C16H13FO3
reactant | hydroxylamine hydrochloride | 0.00720 mol, 0.500 g | Cl.NO
reactant | sodium carbonate | 0.00720 mol, 0.763 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 4-(2′-fluoro-biphenyl-4-yl)-4-hydroxyimino-butyric acid | 1.434 g | FC1=C(C=CC=C1)C1=CC=C(C=C1)C(CCC(=O)O)=NO | C16H14FNO3
